US08461153B2
(2,5-Diisopropylphenyl)methanol
In a 2-neck RBF equipped with magnetic stir bar and N2 inlet, 2,5-diisopropylbenzaldehyde (1.7 g, 9 mmol) was dissolved into 30 mL of EtOH and NaBH4 (0.37 g, 10 mmol) was added over 20 min (portion-wise). After 18 h stirring at RT, ˜95% of solvent was removed on a rotary evaporator and then 5 mL of 0.5 M HCl was added and product was extracted with 25 mL of EtOAc. Organic layer was washed with 15 mL of H2O and 15 mL of brine, dried over Na2SO4, filtered and concentrated to dryness to obtain crude product. This material was subjected to chromatography using heptane: EtOAc as mobile phase to provide 1.1 g of pure product. Yield 65%. 1H NMR (300 MHz, CDCl3) δ 1.2-1.3 (d, 12H), 2.8 (septet, 1H), 3.2 (septet, 1H), 5.7 (s, 2H), 7.1-7.3 (m, 3H).

reactant | 2,5-diisopropylbenzaldehyde | 9 mmol, 1.7 g | C(C)(C)C1=C(C=O)C=C(C=C1)C(C)C | C13H18O
reactant | EtOH | 30 mL | CCO | C2H6O
reactant | NaBH4 | 10 mmol, 0.37 g | [BH4-].[Na+]
reactant | heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2,5-Diisopropylphenyl)methanol | 1.1 g, Yield 65% | C(C)(C)C1=C(C=C(C=C1)C(C)C)CO | C13H20O
